US08871187B2
2 ml of an aqueous solution of sodium hydroxide at 30% are added to a solution of 320 mg (1.13 mmol) of methyl 3-(3-methyl-3H-imidazol-4-yl)propionate tri-fluoroacetate in 10 ml of THF. The reaction medium is stirred at ambient temperature for 16 hours and then cooled to 0° C., and concentrated hydrochloric acid is added dropwise until pH 1 is obtained. After filtration, the filtrate is evaporated. 87 mg of 3-(3-methyl-1H-imidazol-4-yl)propionic acid hydrochloride are obtained with a yield of 39%.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | methyl 3-(3-methyl-3H-imidazol-4-yl)propionate tri-fluoroacetate | 1.13 mmol, 320 mg | FC(C(=O)O)(F)F.CN1C=NC=C1CCC(=O)OC
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-(3-methyl-1H-imidazol-4-yl)propionic acid hydrochloride | 87 mg, yield of 39% | Cl.CN1CNC=C1CCC(=O)O | InChI=1S/C7H12N2O2.ClH/c1-9-5-8-4-6(9)2-3-7(10)11;/h4,8H,2-3,5H2,1H3,(H,10,11);1H
